Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
palpitations
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of CAD
(s/p PCI to LAD and pRCA), HFrEF (EF 30% s/p primary prevention
AICD ___, HTN, HLD who presents with 
lightheadedness/dizziness.

Patient from ___ and in town at a an ___ and
felt in his usual state of health until this morning. He began 
to
feel lightheaded and dizzy while at his hotel. He experienced
some chest discomfort which was non focal, non radiating. 
Patient
reports some diaphoresis during episode. He took 2 sublingual
nitroglycerin and acetaminophen with little response. This
prompted to call EMS.

On arrival to ___ patient noted to have SBPs in the ___ 
and
noted to be tachycardic to 150-160s consistent with
supraventricular tachycardia. He received one dose of adenosine
while in the ED as well as sublingual nitroglycerin. Following
6mgadenosine, patient converted to normal sinus rhythm, although
BPS remained in 70-80s.

Cardiology evaluated the patient ___ in the ED who believed
patient's hypotension likely in the setting of recent Entresto
initiation and poor PO intake. Further recommendations were to
hold Entresto, obtain TTE, and admit patient for further
monitoring and ICD interrogation. 

In the ED initial vitals were: afebrile, HR 76, BP 84/56, RR18,
97% RA
EKG:  Sinus rhythm, t wave inversions in V5, V6, submillimeter 
ST
elevations in V1, V2, V3. Q waves in II, III, aVF. 
Labs/studies notable for: Normal CBC, Sr Cr elevated to 1.7,
tropnonin negative, BNP 420, lactate 1.7, negative UA, CXR w/o
acute process.
Patient was given: 6mg Adenosine, 2 SL nitroglycerin, 2L IVF, 
ASA
325mg 
Vitals on transfer: HR 58, 98/58, 98% RA

On the floor patient reports he no longer has any palpitations 
or
chest discomfort. His symptoms resolved in the EMS. Additionally
he reports a significant cardiac history including 2 previous 
MIs
one in ___, and again in ___. Had AICD placed in ___. Per
report, pt EF approximately 30%, however pt does not believe he
takes oral diuretics and denies history of hospitalizations for
CHF exacerbations. Of note, patient reports he recently began
Entresto, approximately 3 weeks ago.

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations, syncope, or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: PCI to LAD and pRCA
- HFrEF EF <30%
- PACING/ICD: AICD ___ 
3. OTHER PAST MEDICAL HISTORY  
 
Social History:
___
Family History:
Father: MI at age ___, non fatal
Maternal Grandfather: MI in early ___  
 
Physical Exam:
ADMISSION PHYSICAL:
===================
VS: BP96/66 HR56 16 100 RA 
GENERAL: WDWN no NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
NECK: Supple with JVD appreciable at clavicle at 90 degrees. 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No obvious murmurs on exam. 
LUNGS: Good inspiratory effort, no crackles on exam, no wheezes
or rales. Clear to auscultation  
ABDOMEN: Soft, NTND. Normoactive bowel sounds
EXTREMITIES: warm, well perfused, no edema.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM
VS: 97.8F, 59, 98/61, 18, 97% on RA.
GENERAL: WDWN no NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
NECK: Supple with JVD appreciable at clavicle at 90 degrees. 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No obvious murmurs on exam. 
LUNGS: Good inspiratory effort, no crackles on exam, no wheezes
or rales. Clear to auscultation  
ABDOMEN: Soft, NTND. Normoactive bowel sounds
EXTREMITIES: warm, well perfused, no edema.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS:
==================
___ 07:30AM BLOOD WBC-7.2 RBC-4.85 Hgb-15.9 Hct-46.9 MCV-97 
MCH-32.8* MCHC-33.9 RDW-13.5 RDWSD-48.1* Plt ___
___ 07:30AM BLOOD Glucose-98 UreaN-21* Creat-1.7* Na-143 
K-4.8 Cl-106 HCO3-19* AnGap-18
___ 07:30AM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD cTropnT-0.04*
___ 09:10PM BLOOD CK-MB-5 cTropnT-0.03*
___ 07:30AM BLOOD proBNP-420*
___ 07:30AM BLOOD Calcium-8.8 Phos-2.0* Mg-1.8
___ 11:03AM BLOOD Lactate-1.6

IMAGING/PROCEDURES:
===================
TTE ___
The left atrial volume index is normal. Left ventricular wall 
thicknesses and cavity size are normal. There is moderate to 
severe regional left ventricular systolic dysfunction with near 
akinesis of the distal half of the anterior septum and anterior 
wall. The apex is akinetic and aneurysmal. The remaining 
segments are mildly hypokinetic (LVEF = 25 %). No 
intraventricular thrombus is seen. The estimated cardiac index 
is depressed (<2.0L/min/m2). Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular cavity size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are structurally normal. Mild to 
moderate (___) mitral regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: Regional left ventricular systolic dysfunction in a 
pattern most c/w CAD (mid-LAD distribution). Mild-moderate 
mitral regurgitation. Mild pulmonary artery systolic 
hypertension. Increased PCWP. 

CLINICAL IMPLICATIONS: 
The left ventricular ejection fraction is <40%, a threshold for 
which the patient may benefit from a beta blocker and an ACE 
inhibitor or ___.  

ICD INTERROGATION ___
· RV Capture Management: Actual safety margin (3.2 X) > 
programmed margin (2.0 X).
· 2 monitored VT episodes, longest was 17 min.
- No electric discharges.

CXR ___:
No acute pulmonary process detected.  In particular, no evidence 
of CHF.
 
Probable nipple shadow left lung base.  Recommend further 
assessment with PA lateral and both oblique views with nipple 
markers in place, with the patient is stable.
 
RECOMMENDATION(S):  Recommend further assessment with chest 
x-ray exam
comprised of PA, lateral and both oblique views, with nipple 
markers in place,with the patient is stable.

DISCHARGE LABS
==============
___ 05:34AM BLOOD WBC-7.3 RBC-4.21* Hgb-13.6* Hct-40.8 
MCV-97 MCH-32.3* MCHC-33.3 RDW-13.8 RDWSD-49.3* Plt ___
___ 05:34AM BLOOD Glucose-110* UreaN-19 Creat-1.2 Na-143 
K-4.8 Cl-107 HCO3-22 AnGap-14
___ 05:34AM BLOOD Calcium-8.7 Phos-3.7 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of CAD 
(s/p PCI to LAD and pRCA), HFrEF (EF 30% s/p primary prevention 
AICD ___, HTN, HLD presenting with lightheadedness/dizziness 
___ SVT resolved with adenosine.

ACUTE ISSUES
============
#SUPRAVENTRICULAR TACHYCARDIA
Presented with lightheadedness in setting of SVT to heart rates 
of 150-160's. The rhythm was terminated with adenosine. His 
course was complicated by SBP's in the ___, which improved 
after his outpatient entresto discontinued and he received fluid 
resuscitation. ACS ruled out, lactate was wnl, troponins peaked 
at 0.04 in setting of demand. No further SVT episodes. His ICD 
was interrogated, demonstrating an isolated event without 
concern for repeat during travel home.

#HFrEF
Patient has a baseline EF of ~30%. His entresto was held given 
his hypotension on admission. He was maintained on his home dose 
of metoprolol separated to 12.5 mg BID. A TTE was performed that 
demonstrated no significant changes from his baseline.

___
Elevated creatinine to 1.7 on admission in setting of 
hypotension and poor PO intake. Improved after fluid 
resuscitation and improvement of blood pressures.

TRANSITIONAL ISSUES
===================
- Continue to hold entresto until re-evaluated by cardiologist.
- Continue all other medications as prescribed.
- Follow up with Cardiologist, Dr. ___, in the next ___ 
days. ___.
- Follow up with primary care provider, Dr. ___, in the next 
___ days. ___.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  
6. HELD- Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID  This 
medication was held. Do not restart Sacubitril-Valsartan 
(24mg-26mg) until Evaluated by his cardiologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Supraventricular Tachycardia, unspecified
CAD
Heart Failure with reduced Ejection Fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHAT BROUGHT YOU INTO THE HOSPITAL?
- You were admitted for a fast heart rate that needed medicine 
to stop.  
- Your blood pressure was low and was concerning for heart 
issues.
- Your dizziness and unwell feeling needed to be evaluated

WHAT WAS DONE FOR YOU WHILE IN THE HOSPITAL?
- Your fast heart beat was fixed with a medicine called 
adenosine.  
- A scan of your heart was done called a TTE, it showed no 
changes from your last echo.
- Our pacemaker specialists scanned your defibrillator, they 
found that this was an isolated event that needed no further 
intervention here.

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- It is very important that you follow up with your cardiologist 
regarding your entresto and this recent event
- You need to follow up with your PCP.
- Continue all of your other medications as prescribed.

Return to a hospital if you experience any of the following:
*Recurrence of feeling "unwell"
*Palpitations that won't go away
*Increased shortness of breath
*Any symptoms that are concerning

We wish you the best in your recovery!

Your ___ Care Team
 
Followup Instructions:
___